US07067517B2
Methyl-phenyl-carbamic acid 3-(3,4-dichloro-benzyl)-4-methyl-2-oxo-2H-chromen-7-yl ester
The title compound was prepared from 3-(3,4-dichloro-benzyl)-7-hydroxy-4-methyl-2H-chromen-2-one and 3-(methyl-phenyl-carbamoyl)-1-methyl-3H-imidazol-1-ium iodide (white solid). HPLC-MS m/z=468 (M+1), Rt: 5.47 min.

reactant | 3-(3,4-dichloro-benzyl)-7-hydroxy-4-methyl-2H-chromen-2-one | ClC=1C=C(CC=2C(OC3=CC(=CC=C3C2C)O)=O)C=CC1Cl | C17H12Cl2O3
reactant | 3-(methyl-phenyl-carbamoyl)-1-methyl-3H-imidazol-1-ium iodide | [I-].CN(C(=O)N1C=[N+](C=C1)C)C1=CC=CC=C1
product | Methyl-phenyl-carbamic acid 3-(3,4-dichloro-benzyl)-4-methyl-2-oxo-2H-chromen-7-yl ester | ClC=1C=C(CC=2C(OC3=CC(=CC=C3C2C)OC(N(C2=CC=CC=C2)C)=O)=O)C=CC1Cl | C25H19Cl2NO4
